US08227635B2
(E)-4,4′-Dimethylstilbene.
Reaction of 4-methylstyrene with Grubbs' second generation catalyst for 8.5 hours gave the title compound in 76% yield. The 1H and 13C NMR spectra agreed with those reported in the literature. 1H NMR (CDCl3): 2.34 (s, 6H), 7.03 (s, 2H), 7.14 (d, 4H, J=7.8 Hz), 7.39 (d, 4H, J=7.8 H13C NMR (CDCl3): 21.22, 126.29, 127.62, 129.34, 134.72, 137.23.

reactant | 4-methylstyrene | CC1=CC=C(C=C)C=C1 | C9H10
catalyst | Grubbs' second generation | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | (E)-4,4′-Dimethylstilbene | 76% yield | CC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)C | C16H16
